US04002638
To a solution of 20 parts of 2,11-dihydro-3H-s-triazolo[3,4-b][3]benzazepin-3-one in 300 volume parts of dimethylformamide is added 5.5 parts of a sodium hydride (55%) dispersion in mineral oil under stirring. To the mixture is added 13 volume parts of benzyl bromide dropwise. After stirring for 1 hour, the crystals are collected by filtration to give 2-benzyl-2,11-dihydro-3H-s-triazolo[3,4-b][3]benzazepin-3-one as crystals. Recrystallization from ethanol gives colorless plates melting at 133° - 134° C.

reactant | 2,11-dihydro-3H-s-triazolo[3,4-b][3]benzazepin-3-one | N=1NC(N2C1CC1=C(C=C2)C=CC=C1)=O | C11H9N3O
reactant | sodium hydride | [H-].[Na+]
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-benzyl-2,11-dihydro-3H-s-triazolo[3,4-b][3]benzazepin-3-one | C(C1=CC=CC=C1)N1N=C2CC3=C(C=CN2C1=O)C=CC=C3 | C18H15N3O
